US09125939B2
Conventional anhydrous aripiprazole crystals are prepared by well-known methods, as described in Example 1 of Japanese Unexamined Patent Publication No. 191256/1990. 7-(4-bromobutoxy)-3,4-dihydrocarbostyril, is reacted with 1-(2,3-dichlorophenyl)piperazine and the thus obtained crude aripiprazole crystals are re-crystallized from ethanol.

reactant | 7-(4-bromobutoxy)-3,4-dihydrocarbostyril | BrCCCCOC1=CC=C2CCC(NC2=C1)=O | C13H16BrNO2
reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
product | aripiprazole | C=1C=C(C(=C(C1)Cl)Cl)N2CCN(CC2)CCCCOC=3C=CC4=C(C3)NC(=O)CC4 | C23H27Cl2N3O2
